US07544812B2
The crude 1-(3,4-dimethyl-benzyl)-4-[3-(4-hydroxy-phenyl)-propyl]-5-methyl-3-propyl-1,3-dihydro-imidazol-2-one (0.169 g) was combined with ethyl 2-bromoisobutyrate (0.366 g, 1.87 mmol), MgSO4 (0.043 g, 0.357 mmol) and 325 mesh K2CO3 (0.197 g, 1.43 mmol) in ethanol (8 mL) and heated a 75° C. for 16 h under N2. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with 1 N HCl (10 mL) and extracted with EtOAc and water. The organic layer was dried (MgSO4), and the solvent removed in vacuo to afford crude product that was purified by flash chromatography using 2:1 to hexanes:acetone to afford 0.124 g (69%) 2-(4-{3-[1-(3,4-dimethyl-benzyl)-5-methyl-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester. MS (ES+) Calc'd for C31H43N2O4 (M+1) 507. Found m/z 507 (100%). 1H NMR.

reactant | 1-(3,4-dimethyl-benzyl)-4-[3-(4-hydroxy-phenyl)-propyl]-5-methyl-3-propyl-1,3-dihydro-imidazol-2-one | 0.169 g | CC=1C=C(CN2C(N(C(=C2C)CCCC2=CC=C(C=C2)O)CCC)=O)C=CC1C | C25H32N2O2
reactant | ethyl 2-bromoisobutyrate | 1.87 mmol, 0.366 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | MgSO4 | 0.357 mmol, 0.043 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | K2CO3 | 1.43 mmol, 0.197 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2-(4-{3-[1-(3,4-dimethyl-benzyl)-5-methyl-2-oxo-3-propyl-2,3-dihydro-1H-imidazol-4-yl]-propyl}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.124 g, 69% | C(C)OC(C(C)(C)OC1=CC=C(C=C1)CCCC=1N(C(N(C1C)CC1=CC(=C(C=C1)C)C)=O)CCC)=O | C31H42N2O4
